US05102905
A 1.6 M solution of butyllithium in hexane (19.0 ml. 28 mmol) was added to a stirred solution of diisopropylamine (3.9 ml, 28 mmol) in dry ether (40 ml) at -70° C. under argon, and the resulting solution was stirred at -70° C. for 45 minutes. A solution of 2-cyanothiophene (2.6 ml, 28 mmol) in dry ether (10 ml) was then added. The mixture was stirred at -70° C, for 1 hour, then sulphur (1.27 g, 28 mmol) was added slowly at -50° C. After stirring the mixture at -50° C. for 1 hour, it was allowed to warm to ambient temperature and then stirred for a further 30 minutes. The resultant mixture, containing the lithium salt of 5-cyanothiophene-2-thiol, was diluted with ether (100 ml) and a solution of sodium hydroxide (1.68 g, 42 mmol) in water (100 ml) was added. Nitromethane (1.54 ml, 28 mmol) was then added to the vigorously stirred mixture followed by powdered potassium ferricyanide (9.34 g, 56 mmol), and the resultant mixture was stirred at ambient temperature for 1 hour. The mixture was filtered through diatomaceous earth to remove insoluble matter and the aqueous phase was separated and acidified to pH 1with 28% hydrochloric acid. The mixture was extracted with ethyl acetate, dried (MgSO4), and the solvent was removed by evaporation. The resultant oil (2.6 g) was purified by flash chromatography (Merck Kieselgel Art 9385) using ethyl acetate/hexane (1:4 v/v), to give 5-cyano-2-(nitromethylthio)thiophene as an oil (0.5 g, 10% yield); NMR: 5.4(s,2H), 7.4(q,2H).

reactant | butyllithium | C(CCC)[Li]
reactant | hexane | 28 mmol, 19.0 ml | CCCCCC | C6H14
reactant | diisopropylamine | 28 mmol, 3.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-cyanothiophene | 28 mmol, 2.6 ml | C(#N)C=1SC=CC1 | C5H3NS
reactant | sulphur | 28 mmol, 1.27 g | [S] | S
reactant | lithium | [Li] | Li
reactant | 5-cyanothiophene-2-thiol | C(#N)C1=CC=C(S1)S | C5H3NS2
reactant | sodium hydroxide | 42 mmol, 1.68 g | [OH-].[Na+]
reactant | Nitromethane | 28 mmol, 1.54 ml | [N+](=O)([O-])C | CH3NO2
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
catalyst | potassium ferricyanide | 56 mmol, 9.34 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 5-cyano-2-(nitromethylthio)thiophene | 0.5 g, 10% yield | C(#N)C1=CC=C(S1)SC[N+](=O)[O-] | C6H4N2O2S2
